### ISSUE TITLE
Memory issues with `simp`.

### ISSUE THREAD

**Issue by ayhon** [leanprover/lean4#8658]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ ] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Commenting out an invocation of the `simp` tactic doesn't seem to cancel the amount of work it needs to do.

### Context

Prior to the reimplementation of `Array.ofFn` so it would use fuel instead of well-founded recursion, the following code make my local machine consume up to 15GB of additional memory when trying to solve the proof with `simp`.

```lean4
def foo: Vector α n → List α := (Array.toList <| Vector.toArray ·)

def N := 1600
theorem problem
: N = (foo (Vector.ofFn (fun (_: Fin N) => false))).length
:= by
  simp [foo]
```

After posting about this issue in [Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Memory.20issues.20with.20.60Vector.2EofFn.60.2E/near/520673144), Kim reworked the definition of `Array.ofFn` so it wouldn't use well-founded recursion in https://github.com/leanprover/lean4/pull/8499.

While my initial blocker was solved, my original issue was that commenting out my `simp` invocation wouldn't make Lean cancel whatever task it had launched, and therefore I needed to quit the editor to prevent my memory from being filled. If I use the prior definition for `Array.ofFn` in the latest Lean version, I still encounter the same issue.

```lean4
-- Old definition of `Array.ofFn`.
def Array.ofFn2 {n} (f : Fin n → α) : Array α := go 0 (emptyWithCapacity n) where
  /-- Auxiliary for `ofFn`. `ofFn.go f i acc = acc ++ #[f i, ..., f(n - 1)]` -/
  @[semireducible] -- This is otherwise irreducible because it uses well-founded recursion.
  go (i : Nat) (acc : Array α) : Array α :=
    if h : i < n then go (i+1) (acc.push (f ⟨i, h⟩)) else acc
  decreasing_by simp_wf; decreasing_trivial_pre_omega

theorem Array.size_ofFn2_go{n}(f: Fin n → α)(i: Nat)(acc: Array α)
: (Array.ofFn2.go f i acc).size = (n - i) + acc.size := by
  unfold ofFn2.go
  split
  case isTrue => rw [Array.size_ofFn2_go]; simp; omega
  case isFalse => omega

@[simp] theorem Array.size_ofFn2(f: Fin n → α)
: (Array.ofFn2 f).size = n
:= by simp [ofFn2, Array.size_ofFn2_go]

def foo: Array α → List α := Array.toList

def N := 1600
theorem problem
: N = (foo (Array.ofFn2 (fun (_: Fin N) => false))).length
:= by
  -- simp [foo] -- Commenting out this invocation will 
                      -- ramp up RAM usage, eve if it's commented again
                      -- shortly after.
  sorry
```

I attach here a video showcasing my issue, using a new project made with `lake new testing`.

https://github.com/user-attachments/assets/7e0068c3-749a-4b15-a9c6-56a7c27354e0

Pinging @Kha since he encouraged me to open the issue in the most recent Lean FRO's office hours.

### Steps to Reproduce

1. Copy the following code into a new Lean file
```lean4
-- Old definition of `Array.ofFn`.
def Array.ofFn2 {n} (f : Fin n → α) : Array α := go 0 (emptyWithCapacity n) where
  /-- Auxiliary for `ofFn`. `ofFn.go f i acc = acc ++ #[f i, ..., f(n - 1)]` -/
  @[semireducible] -- This is otherwise irreducible because it uses well-founded recursion.
  go (i : Nat) (acc : Array α) : Array α :=
    if h : i < n then go (i+1) (acc.push (f ⟨i, h⟩)) else acc
  decreasing_by simp_wf; decreasing_trivial_pre_omega

theorem Array.size_ofFn2_go{n}(f: Fin n → α)(i: Nat)(acc: Array α)
: (Array.ofFn2.go f i acc).size = (n - i) + acc.size := by
  unfold ofFn2.go
  split
  case isTrue => rw [Array.size_ofFn2_go]; simp; omega
  case isFalse => omega

@[simp] theorem Array.size_ofFn2(f: Fin n → α)
: (Array.ofFn2 f).size = n
:= by simp [ofFn2, Array.size_ofFn2_go]

def foo: Array α → List α := Array.toList

def N := 1600
theorem problem
: N = (foo (Array.ofFn2 (fun (_: Fin N) => false))).length
:= by
  -- simp [foo]
  sorry
```

2. Comment out and in the second-to-last line, `simp [foo]`, multiple times.
3. Watch RAM usage grow.

**Expected behavior:** Once `simp [foo]` is commented out, RAM usage stops increasing.

**Actual behavior:** RAM usage continues rising well after the command was invoked.

### Versions

- Lean version: `leanprover/lean4:v4.20.1`
- OS version: `Linux slab 6.6.76 #1-NixOS SMP PREEMPT_DYNAMIC Sat Feb  8 08:52:39 UTC 2025 x86_64 GNU/Linux`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by hargoniX** [comment]
This reproducer no longer seems to apply on a current Lean release as the goal is just closed. We also recently did some work on adding cancellation checks into more parts of the system so maybe this is just resolved now? Do you have a different reproducer available that still works?

**Comment by ayhon** [comment]
Unfortunately (or more like, fortunately) I haven't encountered this issue again, so I have no other reproducers. I guess it's fine to close this issue until a new reproducer is found.
